US07799894B2
(1) Synthesis of 2,3-di(4-methoxylphenyl)-5-(4-aminophenyl)aminoquinoxaline
While agitating 5.0 g (14.0 mmol) of 2,3-di(4-methoxylphenyl)-5-aminoquinoxaline, 2.4 g (17.0 mmol) of 4-fluoronitrobenzene and 120 ml of dimethylsulfoxide, 5.7 g (50.8 mmol) of t-butoxy potassium was gently added. After completion of the addition, the reaction container was purged with nitrogen, followed by agitation at room temperature for 8 hours. After completion of the reaction, 100 ml of water was added while cooling, and an organic phase was extracted by use of a chloroform solvent, followed by concentration to obtain the intended product.

reactant | 2,3-di(4-methoxylphenyl)-5-aminoquinoxaline | 14.0 mmol, 5.0 g | O(C)C1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)OC)N | C22H19N3O2
reactant | 4-fluoronitrobenzene | 17.0 mmol, 2.4 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | t-butoxy potassium | 50.8 mmol, 5.7 g | C(C)(C)(C)O[K]
solvent | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 2,3-di(4-methoxylphenyl)-5-(4-aminophenyl)aminoquinoxaline | O(C)C1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)OC)NC1=CC=C(C=C1)N | C28H24N4O2
